US07759337B2
A flask under nitrogen was charged with 2-bromo-1-methyl-4-(methylsulfonyl)benzene (0.163 g, 0.654 mmol), 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (0.249 g, 0.981 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(II)complex with dichloromethane (0.0479 g, 0.0654 mmol) and potassium acetate (0.321 g, 3.27 mmol) in 4 mL of DMF. The reaction was heated to 80° C. and stirred overnight. The solvent was removed and the residue was taken up in ethyl acetate and 2 M HCl and filtered through Celite®. The organic layer was separated and the aqueous phase was extracted with ethyl acetate (2×). The combined were dried organic layers over anhydrous sodium sulfate, filtered and concentrated to give 415 mg of a crude brown oil, which was purified by column chromatography (3/1 hexanes/ethyl acetate) to afford 125 mg of 4,4,5,5-tetramethyl-2-(2-methyl-5-(methylsulfonyl)phenyl)-1,3,2-dioxaborolane as a white solid. ES+=297.1 (M+H)

reactant | 2-bromo-1-methyl-4-(methylsulfonyl)benzene | 0.654 mmol, 0.163 g | BrC1=C(C=CC(=C1)S(=O)(=O)C)C | C8H9BrO2S
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 0.981 mmol, 0.249 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | dichloromethane | 0.0654 mmol, 0.0479 g | ClCCl | CH2Cl2
reactant | potassium acetate | 3.27 mmol, 0.321 g | C(C)(=O)[O-].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4,4,5,5-tetramethyl-2-(2-methyl-5-(methylsulfonyl)phenyl)-1,3,2-dioxaborolane | 125 mg | CC1(OB(OC1(C)C)C1=C(C=CC(=C1)S(=O)(=O)C)C)C | C14H21BO4S
